US07659401B2
Step 6: 4-Chloro-2-methyl-thiazolo[4,5-c]pyridine
2-Methyl-thiazolo[4,5-c]pyridine 5-oxide (230 mg, 1.38 mmol) was refluxed 2 hrs in 4 ml of phosphoryl chloride. The reaction mixture was evaporated and extracted with ethyl acetate and saturated sodium bicarbonate-solution. The organic extracts were dried with sodium sulfate, filtered and evaporated. The residue was purified by flash chromatography on silica gel (heptane/ethyl acetate 90:10->0:100 gradient). The desired product was obtained as a light yellow solid (180 mg, 70%), MS: m/e=185.1 (M+H+).

reactant | 2-Methyl-thiazolo[4,5-c]pyridine 5-oxide | 1.38 mmol, 230 mg | CC=1SC2=C(C=[N+](C=C2)[O-])N1 | C7H6N2OS
reactant | phosphoryl chloride | 4 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-2-methyl-thiazolo[4,5-c]pyridine | ClC1=NC=CC2=C1N=C(S2)C | C7H5ClN2S
